* NMOS: M1
M1 2 2 0 0 NMOS

* PMOS: M3
M3 2 4 2 2 PMOS

* Voltage source Vin1
Vin1 2 0 DC 0

* Voltage source Vout1
Vout1 2 0 DC 0

* Connections
* Node 2 is the common node

.end